US07262198B2
1-(4-fluorophenyl)-5-oxopyrrolidine-3-carboxylic acid (unknown amount) was dissolved in 20 ml ethanol and cooled to 0° C. HCl gas was bubbled into the solution until the solution became red in color. The reaction was allowed to warm to room temperature and stir overnight. The solvent was removed to yield ethyl 1-(4-fluorophenyl)-5-oxopyrrolidine-3-carboxylate (M+1=251.93).

reactant | 1-(4-fluorophenyl)-5-oxopyrrolidine-3-carboxylic acid | FC1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C11H10FNO3
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 1-(4-fluorophenyl)-5-oxopyrrolidine-3-carboxylate | FC1=CC=C(C=C1)N1CC(CC1=O)C(=O)OCC | C13H14FNO3
